US05668161
Preparation of 2-(2-Chlorophenyl)-3-(4-methylthiophenyl)propenoic Acid
A mixture of acetic anhydride (170 mL), 4-(methylthio)benzaldehyde (20.93 g, 137 mmol), 2-chlorophenylacetic acid (23.43 g, 137 mmol), and triethylamine (14.97 g, 147 mmol) was heated to reflux for 2 hours. The reaction was cooled to 90° C., and water (180 mL) was added through an addition funnel. A yellow solid that separated from the solution was isolated by filtration and air dried to afford the desired acid. The acid was recrystallized from a mixture of ethyl acetate and isooctane to afford 24.62 g (59%): mp 159°-164° C. 1H NMR (CDCl3) 300 MHz 7.97 (s, 1H), 7.48 (d, J=7.9 Hz, 1H), 7.17-7.35 (m, 3H), 7.02 (d, J=8.7 Hz 2H), 6.97 (d, J=8.7 Hz, 2H), 2.43 (s, 3H). High resolution mass spectrum Calc'd. for C16H13ClO2S: 304.0325. Found: 304.0334.

reactant | acetic anhydride | 170 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(methylthio)benzaldehyde | 137 mmol, 20.93 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | 2-chlorophenylacetic acid | 137 mmol, 23.43 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | triethylamine | 147 mmol, 14.97 g | C(C)N(CC)CC | C6H15N
solvent | water | 180 mL | O | H2O
product | 2-(2-Chlorophenyl)-3-(4-methylthiophenyl)propenoic Acid | ClC1=C(C=CC=C1)C(C(=O)O)=CC1=CC=C(C=C1)SC | C16H13ClO2S
